US04849565
The Stetter and Goebel reference, also cited above, discloses the synthesis of 1-ethynyladamantane from 1-bromoadamantane in good yield. We repeated that procedure with minor modifications by reacting 1-bromoadamantane with vinyl bromide in the presence of aluminum bromide to give the 2,2-dibromoethyl derivative, then dehydrobrominating that derivative in situ with potassium t-butoxide in triethylene glycol to give 1-ethynyladamantane in 60% overall yield.

reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | triethylene glycol | C(COCCOCCO)O | C6H14O4
product | 1-ethynyladamantane | C(#C)C12CC3CC(CC(C1)C3)C2 | C12H16
